US07323475B2
e. (R)-3-tert-Butoxy-2-[(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid tert-butyl ester
To a mixture of 45 mg (0.2 mmol) of 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid, 76 mg (0.2 mmol) of benzotriazol-1-yl-(bis-dimethylamino-methylene)-oxonium hexafluoro phosphate (HBTU), 50.8 mg (R)-2-amino-3-tert-butoxy-propionic acid tert-butyl ester hydrochloride (0.2 mmol), and 1 ml of dichloromethane was added 122.5 μl (0.7 mmol) of ethyl-diisopropyl-amine with stirring. Stirring was continued at ambient temperature for 40 h. The product was isolated from the reaction mixture by flash column chromatography on silica gel using hexanes:ethyl acetate (9:1) as the eluent to give a colorless oil. 27 mg of the title compound was obtained; MS-(+)-ion: M+1=422.8 amu.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | 0.2 mmol, 45 mg | ClC1=NC(=C(C2=CC=CC=C12)O)C(=O)O | C10H6ClNO3
reactant | benzotriazol-1-yl-(bis-dimethylamino-methylene)-oxonium hexafluoro phosphate | 0.2 mmol, 76 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[O+]=C(N(C)C)N(C)C
reactant | (R)-2-amino-3-tert-butoxy-propionic acid tert-butyl ester hydrochloride | 0.2 mmol, 50.8 mg | Cl.C(C)(C)(C)OC([C@@H](COC(C)(C)C)N)=O
reactant | ethyl-diisopropyl-amine | 0.7 mmol, 122.5 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (R)-3-tert-Butoxy-2-[(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid tert-butyl ester | 27 mg | C(C)(C)(C)OC([C@@H](COC(C)(C)C)NC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl)=O | C21H27ClN2O5
